US06350761B1
To 4-(piperidin-4-yl)oxy-3-trifluoromethyl-N-(3-(6-hydroxy-3-amidinophenyl)prop-2-en-1-yl)benzenamine (75 mg) in MeOH was added phenyl carbamate (37 mg) and Et3N (0.073 mL). The reaction mixture was stirred at ambient temperature for 3 hours, acidified with trifluoroacetic acid and purified on HPLC (10-40% acetonitrile in water with 0.1% trifluoroacetic acid). The corresponding peak was collected and freezed dried to afford 4-(N′-(aminocarbonyl)piperidin-4-yl)oxy-3-trifluoromethyl-N-(3-(6-hydroxy-3-amidinophenyl)prop-2-en-1-yl)benzenamine.

reactant | 4-(piperidin-4-yl)oxy-3-trifluoromethyl-N-(3-(6-hydroxy-3-amidinophenyl)prop-2-en-1-yl)benzenamine | 75 mg | N1CCC(CC1)OC1=C(C=C(C=C1)NCC=CC1=CC(=CC=C1O)C(N)=N)C(F)(F)F | C22H25F3N4O2
reactant | phenyl carbamate | 37 mg | C(N)(OC1=CC=CC=C1)=O | C7H7NO2
reactant | Et3N | 0.073 mL | CCN(CC)CC | C6H15N
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | MeOH | CO | CH4O
product | 4-(N′-(aminocarbonyl)piperidin-4-yl)oxy-3-trifluoromethyl-N-(3-(6-hydroxy-3-amidinophenyl)prop-2-en-1-yl)benzenamine | NC(=O)N1CCC(CC1)OC1=C(C=C(C=C1)NCC=CC1=CC(=CC=C1O)C(N)=N)C(F)(F)F | C23H26F3N5O3
